US04598077
To a mixture of 100 ml of chloroform and 100 ml of anhydrous methanol, was added 3.0 g of methyl 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzimidate hydrochloride followed by 16 ml of a methanol solution of anhydrous ammonia (22 mg/ml). The mixture was stirred for 24 hours and then evaporated to dryness. The residue was dissolved in methanol, then poured into a large volume of chloroform, and filtered from precipitated colorless solids. The filtrate was evaporated to dryness and the residue was recrystallized from methanol to yield 1.4 g of 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzamidine; m.p. 228°-230° C. To obtain a methanesulfonate, the above benzamidine compound was suspended in methanol and admixed with an excess of methanesulfonic acid. Upon addition of ether to the resulting solution, there was obtained a colorless solid which was recrystallized from methanol to yield colorless needle crystals of 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzamidine methanesulfonate; m.p. 174°-176° C.

reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methyl 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzimidate hydrochloride | 3.0 g | Cl.COC=1C=C(C(OC)=N)C=CC1OCC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O
reactant | ammonia | N | H3N
solvent | methanol | 16 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzamidine | 1.4 g | COC=1C=C(C(=N)N)C=CC1OCC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H21N3O4
